US09120822B2
Tris(dibenzylideneacetone)dipalladium(0) (10 mg, 0.011 mmol, 0.04 eq) is added at room temperature to a stirred solution of benzyl-(3-bromo-6-methoxy-[1,5]naphthyridin-4-yl)-amine (100 mg, 0.29 mmol, 1.0 eq) in dioxane (6 mL) and water (3 mL), followed by (4′,6′-diisopropyl-3,4,5,6,2′-pentamethyl-biphenyl-2-yl)-dimethyl-phosphane (8 mg, 0.016 mmol, 0.06 eq). After 10 minutes stirring at room temperature, a solution of potassium hydroxide (82 mg, 1.46 mmol, 5.0 eq) in water (3 mL) is added and the resulting mixture is stirred at 105° C. for 16 hours. The reaction mixture is cooled down to room temperature, extracted with ethyl acetate (3×10 mL) and water (10 mL) and the pH is adjusted to 6 by the addition of a 1N hydrochloric acid aqueous solution. The combined organic layers are dried over sodium sulfate, filtered and concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 5:1, v/v) to afford 4-benzylamino-6-methoxy-[1,5]naphthyridin-3-ol as a light yellow solid (30 mg, 36% yield).

reactant | benzyl-(3-bromo-6-methoxy-[1,5]naphthyridin-4-yl)-amine | 0.29 mmol, 100 mg, 1.0 eq | C(C1=CC=CC=C1)NC1=C(C=NC2=CC=C(N=C12)OC)Br | C16H14BrN3O
reactant | (4′,6′-diisopropyl-3,4,5,6,2′-pentamethyl-biphenyl-2-yl)-dimethyl-phosphane | 0.016 mmol, 8 mg, 0.06 eq | C(C)(C)C1=CC(=C(C(=C1)C(C)C)C1=C(C(=C(C(=C1C)C)C)C)P(C)C)C | C25H37P
reactant | potassium hydroxide | 1.46 mmol, 82 mg, 5.0 eq | [OH-].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | water | 3 mL | O | H2O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.011 mmol, 10 mg, 0.04 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | CO | CH4O
product | 4-benzylamino-6-methoxy-[1,5]naphthyridin-3-ol | 30 mg, 36% yield | C(C1=CC=CC=C1)NC1=C(C=NC2=CC=C(N=C12)OC)O | C16H15N3O2
